US08754114B2
N-{3-[5-(1-{1-[(1-Methyl-1H-pyrazol-3-yl)sulfonyl]piperidin-4-yl}-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
To a solution of N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt (20.0 mg, 0.0385 mmol) in acetonitrile (1 mL) was added 1-methyl-1H-pyrazole-3-sulfonyl chloride (10. mg, 0.058 mmol, Maybridge, Cat. No. CC48303) and triethylamine (16 μL, 0.12 mmol), the solution was stirred at r.t. overnight. The reaction solution was diluted with MeOH and then purified by RP-HPLC (pH=10) to afford the desired compound. LCMS (M+H)+: m/z=628.2.

reactant | N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt | 0.0385 mmol, 20.0 mg | Cl.N1CCC(CC1)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1
reactant | 1-methyl-1H-pyrazole-3-sulfonyl chloride | CN1N=C(C=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
product | N-{3-[5-(1-{1-[(1-Methyl-1H-pyrazol-3-yl)sulfonyl]piperidin-4-yl}-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | CN1N=C(C=C1)S(=O)(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C28H28F3N9O3S
